US08802728B2
Add H2O (175.1 mg, 9.73 mmol) and TMSCl (1.057 g, 9.73 mmol) to a solution of 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol (2.38 g, 8.11 mmol) in 2-butanone (60 mL). Stir the reaction mixture at ambient temperature for 3 hours. After removal solvent by evaporation, wash the residue with EtOAc to give 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol hydrochloride as white solid (2.23 g, Yield: 83.5%). 1H NMR (400 MHz, D2O) δ 6.89-6.93 (m, 2H), 6.66-6.70 (m, 1H), 3.10-3.14 (m, 1H), 2.59-2.65 (m, 4H), 2.42-2.44 (d, J=8.0, 1H), 2.36-2.41 (d, J=20.0, 3H), 2.30-2.33 (d, J=12.0, 2H), 2.18 (s, 1H), 1.89-1.95 (m, 1H), 1.74-1.78 (m, 1H), 1.51-1.67 (m, 4H), 1.47-1.50 (m, 1H).

reactant | H2O | 9.73 mmol, 175.1 mg | O | H2O
reactant | TMSCl | 9.73 mmol, 1.057 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol | 8.11 mmol, 2.38 g | CN(C)CC1C2CCC(CC1(O)C1=C(C=CC(=C1)O)F)C2 | C17H24FNO2
solvent | 2-butanone | 60 mL | CC(CC)=O | C4H8O
product | 2-dimethylaminomethyl-3-(2-fluoro-5-hydroxy-phenyl)-bicyclo[3.2.1]octan-3-ol hydrochloride | 2.23 g, Yield: 83.5% | Cl.CN(C)CC1C2CCC(CC1(O)C1=C(C=CC(=C1)O)F)C2 | InChI=1S/C17H24FNO2.ClH/c1-19(2)10-15-12-4-3-11(7-12)9-17(15,21)14-8-13(20)5-6-16(14)18;/h5-6,8,11-12,15,20-21H,3-4,7,9-10H2,1-2H3;1H
